Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
Liver lesions on MRI
 
Major Surgical or Invasive Procedure:
Ultrasound guided liver biopsy ___

 
History of Present Illness:
MS. ___ is a ___ year old woman with hypothyroidism s/p 
thyroidectomy for adenoma who presents with one month of 
abdominal pain and imaging concerning for liver metastases. 

The patient shares that for many years she has had right sided 
abdominal pain after eating heavy or fatty meals. She never had 
acute cholecysitits. But then over the past month or so she 
noticed the pain is more persistent, and not only occurring with 
meals. She will also sometimes have the pain spread across her 
entire abdomen, and radiate to the back. It is crampy, sharp, 
with no associated nausea, vomiting, or change in bowel habits. 
She has lost some weight because eating only chicken and 
vegetables the past month to try and prevent the pain from 
occurring. But she denies losing any marked amount of weight 
unintentionally. She has had no fevers, no chills, no confusion, 
no change in skin color, no change in appetite, no change in 
energy, no diarrhea or constipation, no vomiting, no melena and 
no hematochezia. 

She presented to her PCP with these symptoms, and they ordered a 
RUQ US ___ that showed multiple hepatic lesions, and 
recommended an MRI. MRI ___ showed six hepatic lesions, the 
largest being 4.6 cm, concerning for metastases. Her primary 
care doctor alerted her to come to the ED. 

In the ED, vitals were stable. Labs were notable only for a 
mildly elevated AP to 127. 

Upon arrival to the floor, she gives the above history. She 
shares that she has not had a mammogram in many years and has 
never had a colonoscopy. She had a sigmoidoscopy ___ years ago. 
She does not undergo any other types of colon cancer screening. 

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 

 
Past Medical History:
HTN, not on medication
Hypothyroidism s/p thyroidectomy for adenoma
HLD, not on medication
Hidradenitis suppurativa
 
Social History:
___
Family History:
Mother with breast cancer at ___, died at ___
Father with CAD
Uncle with lung cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS:  98.0 137/85 76 17 98 Ra 
GENERAL: Alert, oriented, no acute distress, well appearing  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CARDIOVASCULAR: Regular rate and rhythm, normal S1 + S2, no 
murmurs, rubs, gallops  
LUNGS: Clear to auscultation bilaterally without wheezes, rales, 
rhonchi
BREAST: deferred breast tonight as patient had just become 
comfortable in bed, plan to do breast exam and full lymph node 
exam in the morning. 
ABDOMEN: Soft, ___, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
NEURO: Face grossly symmetric. Moving all limbs with purpose 
against gravity. Pupils equal and reactive, no dysarthria.  

DISCHARGE PHYSICAL EXAM
Vitals: T 98.2 BP 134/86 HR 71 98% RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops appreciated. 
Abdomen: soft, ___, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly, negative 
___ sign  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes on face, trunk, or upper extremities. 
Neuro: Face grossly symmetric. Moving all limbs with purpose 
against gravity. 
 
Pertinent Results:
ADMISSION LABS
___ 11:32AM BLOOD ___ 
___ Plt ___
___ 11:32AM BLOOD ___ 
___
___ 11:32AM BLOOD ___
___ 11:32AM BLOOD ___

DISCHARGE LABS 
___ 06:20AM BLOOD ___ 
___ Plt ___
___ 06:20AM BLOOD ___ 
___
___ 06:20AM BLOOD ___
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with hypothyroidism s/p 
thyroidectomy for adenoma who presented with one month of 
abdominal pain and imaging concerning for liver metastases. 

#Liver lesions:
#Abdominal pain:
The patient has about a ___ year history of biliary colic after 
meals, but over the past month pain has started to occur at 
times not related to meals. She has also started to experience 
epigastric pain that is radiating to her back. She otherwise had 
a very negative review of systems: no fevers, no chills, no 
confusion, no change in skin color, no change in appetite, no 
change in energy, no diarrhea or constipation, no vomiting, no 
melena and no hematochezia. She has never had a mammogram or 
colonoscopy. 

She presented to her PCP, ___ ordered a RUQ US ___ 
that showed multiple hepatic lesions. MRI ___ showed six hepatic 
lesions, the largest being 4.6 cm, concerning for metastases. 
Her primary care doctor alerted her to come to the ED. On ___ 
the patient had an ultrasound guided liver biopsy with ___. She 
recovered well from the procedure and was discharged the same 
day of procedure. Pathology will be followed up as an 
outpatient.

#Hypothyroidism:
Continue home levothyroxine.

TRANSITIONAL ISSUES:
- F/u pathology of biopsy done ___
- If pathology unrevealing, may need CT guided biopsy
- Patient has never had a colonoscopy or mammogram, and should 
have these now for diagnostic purposes
- Defer further workup to PCP 
- CONTACT: Husband, ___
- CODE STATUS: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 100 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Liver lesions concerning for metastases 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at the ___. You were admitted 
to the ___ because you were having abdominal pain, and an MRI 
(radiology image) of your abdomen showed masses in your liver. 
Unfortunately, these masses are concerning for cancer somewhere 
else in your body. You had a biopsy done, and you will follow up 
with the results after discharge. 

It is very very important that you follow up with your primary 
care doctor, ___ week. You may need to get additional 
chest and abdominal imaging, and we strongly recommend you talk 
to your doctor about getting a colonoscopy. Your doctor may also 
recommend getting a mammogram, and we encourage you listen to 
them about this as well.

If you have worsening pain, or any bleeding or large bruising at 
the biopsy site causing you discomfort, please seek medical 
attention. 

We wish you the best of luck in your health.

Warmly,
Your ___ Care Team
 
Followup Instructions:
___